US08357721B2
a) 1-Bromo-4-[2-(cyclopropylmethoxy)ethyl]benzene
To a suspension under nitrogen of 656.5 mg (16.4 mmol) of NaH (at 60% in oil) in 15 ml of DMF is added over 10 minutes a solution of 3 g (14.9 mmol) of 2-(4-bromophenyl)ethanol in 5 ml of DMF. After stirring for 30 minutes at room temperature, the reaction medium is cooled to 10° C. and a solution of 2.4 g (17.9 mmol) of (bromomethyl)cyclopropane in 10 ml of DMF is added over 15 minutes.

reactant | NaH | 16.4 mmol, 656.5 mg | [H-].[Na+]
reactant | 2-(4-bromophenyl)ethanol | 14.9 mmol, 3 g | BrC1=CC=C(C=C1)CCO | C8H9BrO
reactant | (bromomethyl)cyclopropane | 17.9 mmol, 2.4 g | BrCC1CC1 | C4H7Br
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-Bromo-4-[2-(cyclopropylmethoxy)ethyl]benzene | BrC1=CC=C(C=C1)CCOCC1CC1 | C12H15BrO
